US06172085B2
2,3-Dihydro-2,4,6,7-tetramethyl-2-[[4-(2-phenylethyl)-1-piperazinyl]methyl]-5-benzofuranamine
Using 2-bromomethyl-2,3-dihydro-2,4,6,7-tetramethyl-5-benzofuranamine and 1-(2-phenylethyl)piperazine, the procedure of Example 1 was otherwise repeated to provide the title compound.

reactant | 2-bromomethyl-2,3-dihydro-2,4,6,7-tetramethyl-5-benzofuranamine | BrCC1(OC2=C(C1)C(=C(C(=C2C)C)N)C)C | C13H18BrNO
reactant | 1-(2-phenylethyl)piperazine | C1(=CC=CC=C1)CCN1CCNCC1 | C12H18N2
product | 2,3-Dihydro-2,4,6,7-tetramethyl-2-[[4-(2-phenylethyl)-1-piperazinyl]methyl]-5-benzofuranamine | Yield 50% | CC1(OC2=C(C1)C(=C(C(=C2C)C)N)C)CN2CCN(CC2)CCC2=CC=CC=C2 | C25H35N3O
